US07018988B2
(2S,4EZ)-1-benzoyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(6-quinolinyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid, benzoyl chloride, and 6-quinolinamine the title compound was obtained in 67% purity by LC/MS. MS(ESI+): m/z=533.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-{[(3,4-dichlorobenzyl)oxy]imino}-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)O | C17H20Cl2N2O5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 6-quinolinamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | (2S,4EZ)-1-benzoyl-4-{[(3,4-dichlorobenzyl)oxy]imino}-N-(6-quinolinyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)(=O)N1[C@@H](CC(C1)=NOCC1=CC(=C(C=C1)Cl)Cl)C(=O)NC=1C=C2C=CC=NC2=CC1 | C28H22Cl2N4O3
